US05008280
The procedure is as in Example 8, starting with 2-imino-3-(2-methylthioethyl)-6-trifluoromethoxybenzothiazoline (3.7 g) and m-chloroperbenzoic acid (2.3 g) in absolute ethanol (60 cc). After 30 minutes at -20° C., the precipitate formed is filtered off and the hydro-chloride prepared in acetone (60 cc). (RS)-2-Imino-3-(2-methylsulphinylethyl)-6-trifluoromethoxybenzo-thiazoline hydrochloride (1.5 g), m.p. 186° C., is obtained.

reactant | 2-imino-3-(2-methylthioethyl)-6-trifluoromethoxybenzothiazoline | 3.7 g | N=C1SC2=C(N1CCSC)C=CC(=C2)OC(F)(F)F | C11H11F3N2OS2
reactant | m-chloroperbenzoic acid | 2.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethanol | 60 cc | C(C)O | C2H6O
product | (RS)-2-Imino-3-(2-methylsulphinylethyl)-6-trifluoromethoxybenzo-thiazoline hydrochloride | 1.5 g | Cl.N=C1SC2=C(N1CCS(=O)C)C=CC(=C2)OC(F)(F)F | InChI=1S/C11H11F3N2O2S2.ClH/c1-20(17)5-4-16-8-3-2-7(18-11(12,13)14)6-9(8)19-10(16)15;/h2-3,6,15H,4-5H2,1H3;1H
